US09126931B2
3-Chloro-4-fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S2-3, 20.0 mg, 0.061 mmol) was dissolved in THF (0.25 mL), added with ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (9.8 μL, 0.079 mmol), triphenylphosphine (20.7 mg, 0.079 mmol) and diethyl azodicarboxylic acid (35.9 μl, 0.079 mmol), and then stirred at 40° C. for 5 hr. The reaction solution was concentrated under reduced pressure, and the resulting residues were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the intermediate, 3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-4-fluoro-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one. This compound was dissolved in THF (0.10 mL) and MeOH (0.08 ml), added with sulfuric acid (0.5 M, 0.045 ml), and then stirred at 60° C. for 1 hr. The reaction solution was added with saturated aqueous solution of sodium hydrogen carbonate, extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The yellow solid obtained after concentration under reduced pressure was washed with methylene chloride/hexane solvent and filtered to obtain the title compound (4.3 mg, 18%).

reactant | 3-Chloro-4-fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.061 mmol, 20.0 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1F)(C)C)C=C(C=C4)O)=O | C18H13ClFNO2
reactant | ((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 0.079 mmol, 9.8 μL | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | triphenylphosphine | 0.079 mmol, 20.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylic acid | 0.079 mmol, 35.9 μl | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
product | 3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-4-fluoro-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1F)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H23ClFNO4
